US06787543B2
2,2′-Azobis(4-methoxy-2,4-dimethylvaleronitrile) (50 mg) was added by three portions to the mixture of 1-(4-fluoro-3-methylphenyl)-5-(trifluoromethyl)-1H-tetrazole and N-bromophtalimide (1.44 g) in dichloromethane (16 ml) at 30° C. and the whole was stirred at reflux for 3 hours. After being cooled to room temperature, the mixture was washed with aqueous sodium hydrogen carbonate and aqueous sodium thiosulfate successively. The organic layer was separated, dried over magnesium sulfate, and evaporated under reduced pressure to give a crude 1-[3-(bromomethyl)-4-fluorophenyl]-5-(trifluoromethyl)-1H-tetrazole (3:7).

reactant | 2,2′-Azobis(4-methoxy-2,4-dimethylvaleronitrile) | 50 mg | N(=NC(C#N)(CC(C)(OC)C)C)C(C#N)(CC(C)(C)OC)C | C16H28N4O2
reactant | 1-(4-fluoro-3-methylphenyl)-5-(trifluoromethyl)-1H-tetrazole | FC1=C(C=C(C=C1)N1N=NN=C1C(F)(F)F)C | C9H6F4N4
reactant | N-bromophtalimide | 1.44 g | BrN1C(C=2C(C1=O)=CC=CC2)=O | C8H4BrNO2
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 1-[3-(bromomethyl)-4-fluorophenyl]-5-(trifluoromethyl)-1H-tetrazole | BrCC=1C=C(C=CC1F)N1N=NN=C1C(F)(F)F | C9H5BrF4N4
